US05698691
(2) 2-(5-Chloro-2-neopentylaminophenyl)-2-(2-chlorophenyl)ethanol
To a solution of 2-(2-amino-5-chlorophenyl)-2-(2-chlorophenyl)ethanol (4.44 g) in methanol (50 ml) were added acetic acid (1.4 ml) and pivalaldehyde (2.0 g). The mixture was stirred for 30 minutes at room temperature. To the solution was added sodium cyano borohydride (1.5 g), and the mixture was stirred for one hour at room temperature. The reaction mixture was then processed in substantially the same manner as in Example 52-(7) to give 5.5 g of an oily compound.

reactant | 2-(2-amino-5-chlorophenyl)-2-(2-chlorophenyl)ethanol | 4.44 g | NC1=C(C=C(C=C1)Cl)C(CO)C1=C(C=CC=C1)Cl | C14H13Cl2NO
reactant | acetic acid | 1.4 ml | C(C)(=O)O | C2H4O2
reactant | pivalaldehyde | 2.0 g | C(C(C)(C)C)=O | C5H10O
reactant | sodium cyano borohydride | 1.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(5-Chloro-2-neopentylaminophenyl)-2-(2-chlorophenyl)ethanol | 5.5 g | ClC=1C=CC(=C(C1)C(CO)C1=C(C=CC=C1)Cl)NCC(C)(C)C | C19H23Cl2NO
